US05187160
To a solution of 7β-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido ]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio ]methyl-3-cephem-4-carboxylate (syn isomer) (300 mg) in water (15 ml) was added 1N hydrochloric acid (0.56 ml). The mixture was lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido ]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio ]methyl-3-cephem-4-carboxylate hydrochloride (syn isomer) (310 mg).

reactant | 7β-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido ]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio ]methyl-3-cephem-4-carboxylate | 300 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O)=NOCC | C20H24N8O6S2
reactant | hydrochloric acid | 1N, 0.56 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
product | 7β-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido ]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio ]methyl-3-cephem-4-carboxylate hydrochloride | 310 mg | Cl.NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O)=NOCC | InChI=1S/C20H24N8O6S2.ClH/c1-2-34-25-13(11-9-36-20(22)23-11)16(30)24-14-17(31)28-15(19(32)33)10(8-35-18(14)28)7-26-4-3-12(21)27(26)5-6-29;/h3-4,9,14,18,21,29H,2,5-8H2,1H3,(H4,22,23,24,30,32,33);1H/t14-,18-;/m1./s1
